US07547696B2
d.) 2-Amino-3-cyano-4-hydroxy-6-(4-methylpiperazin-1-yl)quinoline
2 g of malonitrile is dissolved in 30 mL of dimethylformamide. To the solution, in several portions, 1.3 g of 60% oily dispersion of sodium hydride are added. To the clear solution 6.5 g of 5-(4-methylpiperazino)isatoic acid anhydride is added and the mixture is stirred at room temperature for 10 hours. The reaction mixture is diluted with 70 mL of water and extracted with 2×30 mL of ethyl acetate. The aqueous phase is evaporated in vacuum, the solid residue is dissolved in 20 mL of water, the pH is adjusted to 6 with acetic acid. The precipitated material is filtered off, washed with water. After drying 5.2 g of the title compound is obtained, m.p.: 156° C.

reactant | malonitrile | 2 g | C(C(O)CC#N)#N | C4H4N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 5-(4-methylpiperazino)isatoic acid anhydride | 6.5 g | CN1CCN(CC1)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C13H15N3O3
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
product | 2-Amino-3-cyano-4-hydroxy-6-(4-methylpiperazin-1-yl)quinoline | NC1=NC2=CC=C(C=C2C(=C1C#N)O)N1CCN(CC1)C | C15H17N5O
